US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, benzenesulfonyl chloride (0.201 g, 1.16 mmol) was reacted with 2-azidoethanamine (0.100 g, 1.16 mmol) and triethylamine (0.235 g, 2.32 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)benzenesulfonamide (0.289 g, 84%). 1H NMR (300 MHz, CDCl3) δ 7.90 (d, 2H), δ 7.55 (m, 3H), δ 5.47 (s, 1H), δ 3.39 (t, 2H), δ 3.12 (t, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 139.8, 133.2, 129.5, 127.2, 50.9, 42.6 ppm; HRMS (ESI) calcd for C6H8N4O2S (M+) 226.0524, found 226.0523.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | benzenesulfonyl chloride | 1.16 mmol, 0.201 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 2-azidoethanamine | 1.16 mmol, 0.100 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.32 mmol, 0.235 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)benzenesulfonamide | 0.289 g, 84% | N(=[N+]=[N-])CCNS(=O)(=O)C1=CC=CC=C1 | C8H10N4O2S
